US06147088
Step 1A 2-{2-[7-chloro-3-(3,5-dimethylphenyl)-6-(3-ethylureido)-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid benzyl ester
To a solution of 2-{2-[6-amino-7-chloro-3-(3,5-dimethylphenyl)-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid benzyl ester (prepared essentially as described in Example 6, 158 mg in 4 mL dry methylene chloride) at 0° C. was added phosgene (0.22 mL of a 1.93 M solution in toluene) followed by 0.081 mL of triethylamine and the mixture stirred for 1 hour at 0° C. At this time, 114.5 mg of ethylamine hydrochloride was added followed by additional triethylamine (0.195 mL) and the mixture allowed to warm to room temperature. After 20 hours, the mixture was diluted with ethyl acetate (200 mL) and the reaction quenched by the addition of water. The organic portion was washed sequentially with saturated sodium bicarbonate and brine. The solvent was removed in vacuo to provide the crude title compound (187 mg).

reactant | 2-{2-[6-amino-7-chloro-3-(3,5-dimethylphenyl)-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1C(CCCC1)CCOC1=C(C(NC2=CC(=C(C=C12)N)Cl)=O)C1=CC(=CC(=C1)C)C | C32H34ClN3O4
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | triethylamine | 0.081 mL | C(C)N(CC)CC | C6H15N
reactant | ethylamine hydrochloride | 114.5 mg | Cl.C(C)N
reactant | triethylamine | 0.195 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 4 mL | C(Cl)Cl | CH2Cl2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 2-{2-[7-chloro-3-(3,5-dimethylphenyl)-6-(3-ethylureido)-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid benzyl ester | 187 mg | C(C1=CC=CC=C1)OC(=O)N1C(CCCC1)CCOC1=C(C(NC2=CC(=C(C=C12)NC(=O)NCC)Cl)=O)C1=CC(=CC(=C1)C)C | C35H39ClN4O5
